US07521480B2
2-Amino-4-chloro-benzoic acid (17.16 g, 100 mmol) was suspended in 90 ml of water and 20 ml of concentrated HCl. NaNO2 (6.9 g, 100 mmol) was dissolved in 15 ml water and added slowly at 0° C. The mixture was stirred at 0° C. for 30 minutes and Na2SO3 (34.0 g, 270 mmol) were added, dissolved in 150 ml water. The mixture was then stirred for 2 hours at room temperature. 30 ml of concentrated HCl were added and the mixture stirred overnight at room temperature and then at 80° C. for 2 hours. The solution is treated with aqueous NaOH until the pH is 5.5 and the precipitated was filtered and triturated with ethanol to yield 13.8 g (82%) of 6-chloro-1H-indazol-3-ol. 6-Chloro-1H-indazol-3-ol (700 mg, 4.15 mmol) was dissolved in 25 ml pyridine together with 1-bromo-3-isocyanato-benzene (990 mg, 5 mmol) and stirred at RT for 4 hours. The mixture was then diluted with EtOAc (100 ml) and washed 2× with 1 M HCl. The organic phase was dried with Na2SO4 and reduced under vacuum. The residue was now dissolved in 1 M NaOH and washed with EtOAc and then precipitated with HCl and the precipitate extracted into EtOAc, dried and reduced under vacuum. The product was then recrystallised from EtOAc and heptane to yield 1.1 g (79%) of crystalline solid (m.p. 223-225° C.).

reactant | 2-Amino-4-chloro-benzoic acid | 100 mmol, 17.16 g | NC1=C(C(=O)O)C=CC(=C1)Cl | C7H6ClNO2
reactant | NaNO2 | 100 mmol, 6.9 g | N(=O)[O-].[Na+]
reactant | Na2SO3 | 270 mmol, 34.0 g | [O-]S(=O)[O-].[Na+].[Na+]
reactant | NaOH | [OH-].[Na+]
solvent | water | 90 ml | O | H2O
solvent | HCl | 20 ml | Cl | ClH
solvent | water | 15 ml | O | H2O
solvent | water | 150 ml | O | H2O
solvent | HCl | 30 ml | Cl | ClH
product | 6-chloro-1H-indazol-3-ol | 13.8 g, 82% | ClC1=CC=C2C(=NNC2=C1)O | C7H5ClN2O
